US07504403B2
3-[4-(1-tert-Butoxycarbonylamino-ethyl)-phenyl]-acrylic acid ethyl ester:
To a mixture of [1-(4-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester (3.0 g, 10 mmol), tris(dibenzylideneacetone)dipalladium (0.55 g, 0.6 mmol), and N -methyldicyclohexylamine (2.1 mL, 10 mmol) was purged nitrogen followed by the addition of 1,4-dioxane (20 mL) and tri-tert-butylphospine (0.24 g, 1.2 mmol). The mixture was again purged with nitrogen and the ethyl acrylate (2.16 mL, 20 mmol) was added. The mixture was heated to 80° C. for 30 min, poured into water (100 mL) and extracted with ethyl acetate (150 mL). The organic layer was separated, washed again with water, dried over magnesium sulfate, concentrated and chromatographed on silica gel using 2:1 hexanes/ethyl acetate to afford a light-brown oil. M+1=320.

reactant | [1-(4-bromo-phenyl)-ethyl]-carbamic acid tert-butyl ester | 10 mmol, 3.0 g | C(C)(C)(C)OC(NC(C)C1=CC=C(C=C1)Br)=O | C13H18BrNO2
reactant | N -methyldicyclohexylamine | 10 mmol, 2.1 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | tri-tert-butylphospine | 1.2 mmol, 0.24 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | ethyl acrylate | 20 mmol, 2.16 mL | C(C=C)(=O)OCC | C5H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.6 mmol, 0.55 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 100 mL | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 3-[4-(1-tert-Butoxycarbonylamino-ethyl)-phenyl]-acrylic acid ethyl ester | C(C)OC(C=CC1=CC=C(C=C1)C(C)NC(=O)OC(C)(C)C)=O | C18H25NO4
